Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pressure
 
Major Surgical or Invasive Procedure:
Coronary cath ___

 
History of Present Illness:
___ F with history of HTN who was seen in ___ for chest 
pain and shortness of breath and transferred to ___ for cath.  

 The patient was well until 3 days ago when she started having 
congestion, fatigue, shortness of breath and chest pain that 
felt like a "cat" was on her chest. She thought this was due to 
anxiety so took 2 ativan and tried to sleep. Her symptoms 
continued on and off so she went to her PCP were she had an 
abnormal EKG and was sent to ___.  
At ___, she had a positive D-dimmer which was follow by a 
CTA that excluded PE. She had negative Trop x2 and was scheduled 
for a stress test. The patient did not undergo ETT and was 
evaluated by the cardiologist at ___ who adviced for a cath 
on ___. She was started on heparin and transferred to 
___.  
No fevers, chills, rigors, no abdominal pain, vomiting  

In the ED, initial VS were 96.8 88 120/80 14 95% RA. Labs 
significant for Ddimer 846, Cr 0.7, WBC 6.8, Hgb 13.9, plts 224, 
PTT 31.2, Trop <0.01. Patient was given 12.5mg Metoprolol, 
continued on heparin gtt, given Tylenol ___.  

On arrival to the floor, patient denies any chest pain or 
symptoms.
 
Past Medical History:
HTN  
Anxiety
Diverticulitis  
Prior Back surgery  
 
Social History:
___
Family History:
Father ___ at ___, ___ MI at ___  
Brother ___ at ___ 
 
Physical Exam:
ADMISSION EXAM:
VS - 98.2 73 124/52 20 92% RA  
GENERAL: NAD , pleasant female  
HEENT: sclera anicteric, clear oropharynx  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNG: CTAB, no w/r/r  
ABDOMEN: soft, NTND  
EXTREMITIES: no c/e/c  
PULSES: 2+ DP pulses bilaterally  
NEURO:alert and interactive, moves all extremities, no focal 
deficit  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE EXAM:
VS: 98.1 ___ 18 97-100 RA 
I/O: BRP
Wt: not recorded
GENERAL: NAD , anxious-appearing woman
HEENT: sclera anicteric, clear oropharynx  
NECK: nontender supple neck, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no w/r/r  
ABDOMEN: soft, NTND  
EXTREMITIES: no c/e/c  
NEURO:alert and interactive, moves all extremities, no focal 
deficit 
 
Pertinent Results:
ADMISSION LABS:
___ 08:54PM BLOOD WBC-6.8 RBC-4.34 Hgb-13.9 Hct-40.5 MCV-93 
MCH-32.0 MCHC-34.3 RDW-12.9 RDWSD-43.7 Plt ___
___ 08:54PM BLOOD Neuts-61.9 ___ Monos-9.9 Eos-2.4 
Baso-0.9 Im ___ AbsNeut-4.19 AbsLymp-1.66 AbsMono-0.67 
AbsEos-0.16 AbsBaso-0.06
___ 08:54PM BLOOD ___ PTT-31.2 ___
___ 08:54PM BLOOD Glucose-95 UreaN-20 Creat-0.7 Na-139 
K-4.5 Cl-104 HCO3-21* AnGap-19
___ 07:30AM BLOOD Calcium-10.3 Phos-5.2* Mg-2.0
___ 08:54PM BLOOD cTropnT-<0.01
___ 07:30AM BLOOD CK-MB-2 cTropnT-<0.01
___ 08:54PM BLOOD D-Dimer-846*

DISCHARGE LABS:
___ 07:00AM BLOOD WBC-7.7 RBC-4.06 Hgb-12.9 Hct-38.2 MCV-94 
MCH-31.8 MCHC-33.8 RDW-12.7 RDWSD-43.8 Plt ___
___ 07:00AM BLOOD ___ PTT-29.7 ___
___ 07:00AM BLOOD Glucose-94 UreaN-31* Creat-1.0 Na-139 
K-4.4 Cl-104 HCO3-23 AnGap-16
___ 07:00AM BLOOD Calcium-10.1 Phos-5.3* Mg-2.0

IMAGING:
___ Coronary Catherization:
Dominance: Right
* Left Main Coronary Artery
The LMCA is normal.
* Left Anterior Descending
The LAD is normal.
* Circumflex
The Circumflex is normal.
* Ramus
The Ramus is normal.
* Right Coronary Artery
The RCA is normal.
 
Brief Hospital Course:
___ with history of HTN, anxiety and family history of early MI 
who was seen in ___ for chest pain and was found to have 
diffuse T wave inversions in precordial leads on ECG so was 
transferred to ___ for cath.  

#Chest pain: Patient had an episode of chest pressure and 
dyspnea at rest associated with ECG changes and negative 
troponins. Her ECG changes resolved the following day when she 
was symptom free, increasing concern for ACS. Therefore she was 
referred to ___ instead of having a stress test. Cardiac cath 
showed no coronary artery lesions so she was discharged the 
following day. It was recommended that she have a lipid panel 
done as an outpatient with consideration of starting a statin 
given her family history of CAD. 

#Hypertension: Patient is on lisinopril at home but this was 
held as she was undergoing cath. 

# Anxiety: Patient has history of anxiety for which she takes 
lorazepam PRN. She received 2 mg PO lorazepam x1 during this 
hospitalization.

Transitional issues:
- Cath on ___ negative for ACS
- Patient should have lipids checked as an outpatient with 
consideration or starting a statin given her family history of 
CAD
- Patient discharged on her home medications with instructions 
to wait to start her lisinopril until the day after discharge 
due to a rise in creatinine from 0.7-1.0 post-cath. She should 
have a creatinine checked at follow up.
- CONTACT: ___ (Sister) ___ 
- CODE: full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Lorazepam Dose is Unknown  PO Q4H:PRN anxiety 

 
Discharge Medications:
1. Lisinopril 40 mg PO DAILY 
Wait to start this medication until ___. 
2. Lorazepam 1 mg PO Q4H:PRN anxiety 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Chest pressure
Anxiety

Secondary diagnosis:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized at ___ 
because you had chest pressure that was concerning for coronary 
artery disease (blockage in the blood vessels that give blood to 
the heart). You came to ___ to have a cardiac cath done to 
evaluate the blood vessels around your heart. The cath showed 
that your blood vessels were normal. Your chest pressure was not 
due to coronary artery disease.

You will not need to take any new medications. You should wait 
to restart your lisinopril until ___ because the 
dye used in the cath can cause injury to the kidneys which can 
be made worse with lisinopril. You should stay well-hydrated as 
well. 

It was a pleasure participating in your care. We wish you all 
the best in the future.

Sincerely,

Your ___ team
 
Followup Instructions:
___